US04521422
A mixture of 0.10 mole of 3-acetylpyridine and 0.10 mole of N,N-dimethylformamide dimethylacetal in 100 ml of benzene was refluxed for 12 hours. The solvent was removed, giving 3-dibutylamino-1-(3-pyridinyl)-2-propen-1-one.

reactant | 3-acetylpyridine | 0.10 mole | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | N,N-dimethylformamide dimethylacetal | 0.10 mole | COC(N(C)C)OC | C5H13NO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-dibutylamino-1-(3-pyridinyl)-2-propen-1-one | C(CCC)N(C=CC(=O)C=1C=NC=CC1)CCCC | C16H24N2O
